US07807709B2
C. (3S*,4S*)-3,4-Bis-hydroxymethyl-pyrrolidine-1-carboxylic acid tert-butyl ester
To a ice-cooled solution of (3S*,4S*)-pyrrolidine-1,3,4-tricarboxylic acid 1-tert-butyl ester 3,4-diethyl ester (36 g, 114.15 mmol) in THF (1 L), is added dropwise a solution of LiBH4 (228.3 mmol) in THF (250 mL). The reaction mixture is stirred overnight at room temperature and quenched with an aqueous solution of NaOH 2N (400 mL). Ether is added, the layers are separated and the aqueous one back extracted twice with ether. The combined organic extracts are dried over Na2SO4, filtered and concentrated to give the title compound which is used without further purification in the next step. TLC, Rf (CH2Cl2/MeOH 95:5)=0.14. MS (LC-MS): 232.2 [M+H]+; tR (HPLC, C18 column, 5-100% CH3CN/H2O/6 min, 100% CH3CN/2 min, CH3CN and H2O containing 0.1% TFA, flow: 1 mL/min): 3.37 min.

reactant | (3S*,4S*)-pyrrolidine-1,3,4-tricarboxylic acid 1-tert-butyl ester 3,4-diethyl ester | 114.15 mmol, 36 g | C(C)OC(=O)[C@@H]1CN(C[C@H]1C(=O)OCC)C(=O)OC(C)(C)C | C15H25NO6
reactant | LiBH4 | 228.3 mmol | [Li+].[BH4-]
solvent | THF | 1 L | C1CCOC1 | C4H8O
solvent | THF | 250 mL | C1CCOC1 | C4H8O
product | (3S*,4S*)-3,4-Bis-hydroxymethyl-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)CO)CO | C11H21NO4
